US09328110B2
To a stirred mixture of 4-chloro-3-nitroquinoline (100.0 g, 479 mmol) and triethylamine (72.8 g, 719 mmol) in dichloromethane (700 mL) was added dropwise 4-amino-1-butanol (42.7 g, 479 mmol). After the addition was complete, water (500 mL) was added to the reaction mixture to cause the product to precipitate. More water (2 L) was added, and the mixture was stirred overnight and then filtered. The organic solution was dried over sodium sulfate, concentrated under reduced pressure, and combined with the product isolated by filtration to provide 4-(3-nitroquinolin-4-ylamino)butan-1-ol (113 g) as a bright yellow solid.

reactant | 4-chloro-3-nitroquinoline | 479 mmol, 100.0 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 719 mmol, 72.8 g | C(C)N(CC)CC | C6H15N
reactant | 4-amino-1-butanol | 479 mmol, 42.7 g | NCCCCO | C4H11NO
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
product | 4-(3-nitroquinolin-4-ylamino)butan-1-ol | 113 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCO | C13H15N3O3
